US05459137
1-(4-Acetylaminophenyl)-4-methyl-7,8-methylenedioxy-5H-2,3-benzodiazepine
10 g (34 mmol) of 1-(4-aminophenyl)-4-methyl-7,8-methylenedioxy-5H-2,3-benzodiazepine were stirred for 3 hours with 100 ml of acetic anhydride. The crystals formed were filtered, washed with 5×10 ml of anhydrous ethanol and dried, yielding 9.2 g of raw product, m.p. 252°-254° C. (decomp.). This product was treated with 45 ml of hot 99.5% ethanol. After cooling the crystals were filtered, washed with 3×10 ml of ethanol and dried to give 8.68 g (76.1%) of the aimed product, m.p.: 256°-258° C. (decomp.).

reactant | 1-(4-aminophenyl)-4-methyl-7,8-methylenedioxy-5H-2,3-benzodiazepine | 34 mmol, 10 g | NC1=CC=C(C=C1)C1=NN=C(CC2=C1C=C1C(=C2)OCO1)C | C17H15N3O2
reactant | acetic anhydride | 100 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethanol | C(C)O | C2H6O
product | 1-(4-Acetylaminophenyl)-4-methyl-7,8-methylenedioxy-5H-2,3-benzodiazepine | 8.68 g, 76.1% | C(C)(=O)NC1=CC=C(C=C1)C1=NN=C(CC2=C1C=C1C(=C2)OCO1)C | C19H17N3O3
